US05580981
To 13.58 g of 2-nitro-3-methoxypyridine was added 26.4 mL of 95% hydrazine, 10.4 mL of water and 15.3 mL of DMF. The mixture was carefully warmed to about 70° on a hot plate. Spontaneous warming then set in, the temperature rising to about 80° as the solid dissolved. The solution was set aside for 24 hr and then evaporated from a water bath with the aid of a water aspirator to remove excess hydrazine and water. The dark green residue was cooled in an ice bath, diluted with 50 mL of water and acidified to Congo Red with concentrated hydrochloric acid (ca. 17 ml). A yellow-straw-colored solid separated and was filtered and washed with a little cold water to give 6.25 g (52.1%) of HOAt upon recrystallization from 75 mL of water gave 5.46 g (45.5%) of nearly colorless crystals, mp 216°-217° 1H NMR (CDCl3 -DMSO-d6): δ7.35 (dd, 1, β-H), 8.3 (dd, 1, γ-H), 8.66 (dd, 1, α-H); Jα,β =4.2 Hz, Jβ,γ=8.2 Hz, Jα, γ=1.6 Hz. Evaporation of the filtrate gave an additional 0.14 g of the pure hydroxy compound so the total yield was 5.6 g (46.7%).

reactant | 2-nitro-3-methoxypyridine | 13.58 g | [N+](=O)([O-])C1=NC=CC=C1OC | C6H6N2O3
reactant | hydrazine | 26.4 mL | NN | H4N2
reactant | water | 10.4 mL | O | H2O
solvent | DMF | 15.3 mL | CN(C)C=O | C3H7NO
product | HOAt | 6.25 g, 52.1% | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
